US06479424B1
2-(3,5-Bis(trimethylsilyl)phenyl)indene (22.3 g, 0.066 mol) and anhydrous diethyl ether (250 mL) were placed in a 1 L three-necked flask under argon. n-Butyllithium (41 mL of a 1.6 M solution in hexanes, 0.066 mol) was added over a thirty minute period at 0° C. The solution was stirred for an additional two hours. Hafnium tetrachloride (10.5 g, 0.033 mol) was added incrementally over a one-hour period. The mixture was then stirred overnight. The ethereal solution was chilled to −10° C. and the solids were collected by filtration. The solids were taken up in 300 mL of dichloromethane and the residual solids were removed by filtration through celite. The celite was washed with an additional 100 mL of dichloromethane and the solvents were evaporated to give 17.3 g of bis(2-(3,5-bis(trimethylsilyl)phenyl)indenyl)hafnium dichloride product (56% yield).

reactant | 2-(3,5-Bis(trimethylsilyl)phenyl)indene | 0.066 mol, 22.3 g | C[Si](C=1C=C(C=C(C1)[Si](C)(C)C)C=1CC2=CC=CC=C2C1)(C)C | C21H28Si2
reactant | n-Butyllithium | C(CCC)[Li]
reactant | Hafnium tetrachloride | 0.033 mol, 10.5 g | [Cl-].[Cl-].[Cl-].[Cl-].[Hf+4]
solvent | diethyl ether | 250 mL | C(C)OCC | C4H10O
product | bis(2-(3,5-bis(trimethylsilyl)phenyl)indenyl)hafnium dichloride | 17.3 g, 56% yield | [Cl-].[Cl-].C[Si](C=1C=C(C=C(C1)[Si](C)(C)C)C=1C(C2=CC=CC=C2C1)[Hf+2]C1C(=CC2=CC=CC=C12)C1=CC(=CC(=C1)[Si](C)(C)C)[Si](C)(C)C)(C)C | InChI=1S/2C21H27Si2.2ClH.Hf/c2*1-22(2,3)20-13-19(14-21(15-20)23(4,5)6)18-11-16-9-7-8-10-17(16)12-18;;;/h2*7-15H,1-6H3;2*1H;/q;;;;+2/p-2
